US06638928B1
Annulation of 3-{2-[(3-hydroxy-4-methoxyphenyl)carbonyl]-4,5-dimethoxyphenyl}pentan-2-one by reaction with hydrazine to yield 1-(3-hydroxy-4-methoxyphenyl)-4-methyl-5-ethyl-7,8-dimethoxy-5H-2,3-benzodiazepine.

reactant | 3-{2-[(3-hydroxy-4-methoxyphenyl)carbonyl]-4,5-dimethoxyphenyl}pentan-2-one | OC=1C=C(C=CC1OC)C(=O)C1=C(C=C(C(=C1)OC)OC)C(C(C)=O)CC | C21H24O6
reactant | hydrazine | NN | H4N2
product | 1-(3-hydroxy-4-methoxyphenyl)-4-methyl-5-ethyl-7,8-dimethoxy-5H-2,3-benzodiazepine | OC=1C=C(C=CC1OC)C1=NN=C(C(C2=C1C=C(C(=C2)OC)OC)CC)C | C21H24N2O4
